datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CCCCCCC[C:11](=[CH2:10])CCCCCC1.CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([CH2:10][C+:11]2CCCCCCCCCCCCCC2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;20,21=21"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.C[C:10]1=[C:11]([O-:12])CC[O:72][C:61]1=[O:62]>>C[C:10]1([CH:20]([CH:21]=[CH:22][N:23]2CCOCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:11](=[O:12])CC[O:72][C:61]1=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[Si:63](CC)(CC)[CH2:62][CH:11]=[CH2:10].C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[Si:63](CC)(CC)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[C:34](C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]1 10,11=10,20"
C1=C[C:61]2=[C:62](C=C1)[N:72]=[CH:71][N-:10]2.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C:20]([N:10]2[C:61]3=[C:62](C=CC=C3)[N:72]=[CH:71]2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1 10=20
C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[N:10]1CCOCC1>>C[N+:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)CCOCC1 10=20
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:61]1=[N:10][CH:64]=[C:63](C)[NH:62]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[C:61](C)[NH:62][C:63](C)=[CH:64]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:11](=[N:10][C:61](C)=[O:62])[O-:12]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]([C:11](C)=[O:12])[C:61](C)=[O:62])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C>>C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C 10,11=10,20;20,21=21"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCC1)=[O:62].[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>CC[O:72][C:61]([C:10]1([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)CCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CN(C)C1=CC=C([P+:10](C2=CC=C(N(C)C)C=C2)(C2=CC=C(N(C)C)C=C2)[CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C=C1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[NH:10]2)C=C1.CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1>>CN(C)C1=CC=C([CH:20]([NH+:10]2CCCC2[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10=20;20,21=21"
"C/[C:11](=[CH:10]/[C:61](C)=[O:62])[O-:12].C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1>>C[C:11]([CH:10]([CH:20]([N:21]=[P:22](C1=CC=CC=C1)(C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:62](=[N:61][CH:10]=[C:11]=[N-:12])[C:63]2=[CH:64][CH:65]=[CH:66][CH:74]=[CH:75]2)C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:11]#[N:12])[N:61]=[C:62](C2=CC=CC=C2)[C:63]2=[CH:64][CH:65]=[CH:66][CH:74]=[CH:75]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([CH:21]=[CH:22][N:23]3C(CC4=CC=CC=C4)C(=O)N(C)C3(C)C)[C:31]3=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]3)=[O:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
